* F:\Usuario Elias\Downloads\FIUBA\01 - En Curso\Circuitos I\Repos\TL2\TL3\simulaciones\simulacionV2.asc
M2 N001 g2 N004 N002 MOS2
M1 d1 g1 g2 g2 MOS1
R1 g1 0 1Meg
R2 g2 0 1k
R3 d2 N006 4.7k
R4 out 0 4.7k
C1 d2 out 1µ
C2 g2 0 1µ
V1 N006 0 10v
C3 N006 0 0.1µ
R5 N004 d1 50
Cg1s g2 g1 2.2p
Cg1d g1 N001 25f
Cg2d g2 N001 0.8p
R6 d2 N001 100
C4 g2 g2 1.1p
V2 N007 0 SINE(0 10m 5k 0 0 0) AC 1
V3 N003 0 SINE(0 330m 20K 0 0 0)
R7 N003 0 4.7k
R8 N005 0 10Meg
C5 N005 0 20p
R9 out1 0 2Meg
C6 out1 0 0.5p
R10 N008 0 1Meg
C7 N008 0 200p
R_s g1 N007 50
.model NMOS NMOS
.model PMOS PMOS
.lib F:\Usuario Elias\Documents\LTspiceXVII\lib\cmp\standard.mos
.MODEL MOS1 NMOS (KP=15m VTO=-1 W/L=1)
.MODEL MOS2 NMOS (KP=200m VTO=-1 W/L=1)
;op
.ac dec 1000 100 1G
;tran 0 1m 0 1u
* Punta X10
* Punta Activa
* Punta X1
;four 5000 V(out)
.backanno
.end
